US04958026
600 mg of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine is heated under reflux for 3 hours with 10 ml of trifluoroacetic acid. After concentration, the residue is recrystallized from isopropanol, thus obtaining 908 mg of 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2-trifluoromethylbenzimidazole, trifluoroacetate, mp 182°-185° C.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine | 600 mg | NC1=C(C=CC(=C1N)OC)CCN(C)C | C11H19N3O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2-trifluoromethylbenzimidazole | 908 mg | COC1=CC=C(C2=C1N=C(N2)C(F)(F)F)CCN(C)C | C13H16F3N3O
